** Name: SimpleTwoStageOpAmp_SimpleOpAmp78_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp78_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=14e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=188e-6
mDiodeTransistorNmos3 FirstStageYinnerOutputLoad2 FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=118e-6
mDiodeTransistorNmos4 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=145e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=18e-6
mDiodeTransistorPmos6 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=106e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=512e-6
mDiodeTransistorPmos8 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=405e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=258e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=353e-6
mNormalTransistorNmos11 outFirstStage FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=118e-6
mNormalTransistorNmos12 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=580e-6
mNormalTransistorNmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=145e-6
mNormalTransistorNmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=51e-6
mNormalTransistorNmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=51e-6
mNormalTransistorNmos16 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=188e-6
mNormalTransistorNmos17 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=14e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=512e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=118e-6
mNormalTransistorPmos20 FirstStageYinnerOutputLoad2 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=118e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=353e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=353e-6
mNormalTransistorPmos23 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=106e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp78_5

** Expected Performance Values: 
** Gain: 130 dB
** Power consumption: 14.4301 mW
** Area: 11999 (mu_m)^2
** Transit frequency: 16.5221 MHz
** Transit frequency with error factor: 16.5216 MHz
** Slew rate: 15.4243 V/mu_s
** Phase margin: 60.1606°
** CMRR: 143 dB
** VoutMax: 3.12001 V
** VoutMin: 0.520001 V
** VcmMax: 5.25 V
** VcmMin: 1.35001 V


** Expected Currents: 
** NormalTransistorNmos: 407.239 muA
** NormalTransistorNmos: 182.761 muA
** NormalTransistorPmos: -92.3419 muA
** NormalTransistorPmos: -158.301 muA
** NormalTransistorPmos: -92.3399 muA
** NormalTransistorPmos: -158.299 muA
** DiodeTransistorNmos: 92.3411 muA
** DiodeTransistorNmos: 92.3401 muA
** NormalTransistorNmos: 92.3391 muA
** NormalTransistorNmos: 92.3401 muA
** NormalTransistorNmos: 131.919 muA
** DiodeTransistorNmos: 131.92 muA
** NormalTransistorNmos: 65.9591 muA
** NormalTransistorNmos: 65.9591 muA
** NormalTransistorNmos: 1969.34 muA
** NormalTransistorPmos: -1969.33 muA
** DiodeTransistorPmos: -1969.33 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -407.238 muA
** NormalTransistorPmos: -407.239 muA
** DiodeTransistorPmos: -182.76 muA
** DiodeTransistorPmos: -182.761 muA


** Expected Voltages: 
** ibias: 1.17501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.96301  V
** out: 2.5  V
** outFirstStage: 0.921001  V
** outInputVoltageBiasXXpXX1: 2.55401  V
** outSourceVoltageBiasXXnXX1: 0.588001  V
** outSourceVoltageBiasXXpXX1: 3.77701  V
** outSourceVoltageBiasXXpXX2: 4.27701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad2: 1.12601  V
** innerTransistorStack1Load2: 0.555001  V
** innerTransistorStack2Load2: 0.554001  V
** sourceGCC1: 3.73601  V
** sourceGCC2: 3.73601  V
** sourceTransconductance: 1.92001  V
** inner: 0.586001  V
** inner: 3.77101  V


.END