** Name: SimpleTwoStageOpAmp_SimpleOpAmp79_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp79_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=25e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=10e-6 W=26e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=370e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=234e-6
mNormalTransistorNmos7 outFirstStage outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=63e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=121e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=117e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=169e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=63e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=117e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=10e-6 W=290e-6
mNormalTransistorNmos14 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=169e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=115e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=129e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=260e-6
mNormalTransistorPmos18 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=547e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=62e-6
mNormalTransistorPmos20 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=260e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=62e-6
Capacitor1 outFirstStage out 7.5e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp79_1

** Expected Performance Values: 
** Gain: 128 dB
** Power consumption: 11.7661 mW
** Area: 13509 (mu_m)^2
** Transit frequency: 15.6201 MHz
** Transit frequency with error factor: 15.6199 MHz
** Slew rate: 14.3365 V/mu_s
** Phase margin: 60.1606°
** CMRR: 147 dB
** VoutMax: 4.62001 V
** VoutMin: 0.370001 V
** VcmMax: 5.02001 V
** VcmMin: 1.32001 V


** Expected Currents: 
** NormalTransistorNmos: 140.693 muA
** NormalTransistorNmos: 90.0241 muA
** NormalTransistorPmos: -341.566 muA
** NormalTransistorPmos: -105.594 muA
** NormalTransistorPmos: -161.306 muA
** NormalTransistorPmos: -105.594 muA
** NormalTransistorPmos: -161.306 muA
** NormalTransistorNmos: 105.595 muA
** NormalTransistorNmos: 105.594 muA
** NormalTransistorNmos: 105.595 muA
** NormalTransistorNmos: 105.594 muA
** NormalTransistorNmos: 111.422 muA
** NormalTransistorNmos: 111.421 muA
** NormalTransistorNmos: 55.7111 muA
** NormalTransistorNmos: 55.7111 muA
** NormalTransistorNmos: 1448.36 muA
** NormalTransistorPmos: -1448.35 muA
** DiodeTransistorNmos: 341.567 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -140.692 muA
** DiodeTransistorPmos: -90.0249 muA


** Expected Voltages: 
** ibias: 0.618001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.780001  V
** outVoltageBiasXXnXX1: 0.975001  V
** outVoltageBiasXXpXX2: 4.05301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.418001  V
** innerTransistorStack1Load2: 0.371001  V
** innerTransistorStack2Load2: 0.371001  V
** out1: 0.576001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.94501  V


.END