** Name: SimpleTwoStageOpAmp_SimpleOpAmp79_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp79_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=28e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=53e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=294e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=325e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=413e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=6e-6 W=68e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=63e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=24e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=43e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=43e-6
mNormalTransistorNmos12 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=6e-6 W=68e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=63e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=63e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=75e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=452e-6
mNormalTransistorPmos17 out inputVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=175e-6
mNormalTransistorPmos18 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=49e-6
mNormalTransistorPmos19 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=49e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=138e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=5e-6 W=138e-6
mNormalTransistorPmos22 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=524e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp79_10

** Expected Performance Values: 
** Gain: 138 dB
** Power consumption: 7.90601 mW
** Area: 11245 (mu_m)^2
** Transit frequency: 14.4921 MHz
** Transit frequency with error factor: 14.4923 MHz
** Slew rate: 11.6098 V/mu_s
** Phase margin: 60.7336°
** CMRR: 142 dB
** VoutMax: 4.27001 V
** VoutMin: 0.240001 V
** VcmMax: 5.09001 V
** VcmMin: 1.40001 V


** Expected Currents: 
** NormalTransistorNmos: 538.13 muA
** NormalTransistorNmos: 103.077 muA
** NormalTransistorPmos: -158.208 muA
** NormalTransistorPmos: -27.9979 muA
** NormalTransistorPmos: -47.9979 muA
** NormalTransistorPmos: -27.9959 muA
** NormalTransistorPmos: -47.9959 muA
** NormalTransistorNmos: 27.9971 muA
** NormalTransistorNmos: 27.9961 muA
** NormalTransistorNmos: 27.9951 muA
** NormalTransistorNmos: 27.9961 muA
** NormalTransistorNmos: 39.9971 muA
** NormalTransistorNmos: 39.9961 muA
** NormalTransistorNmos: 19.9991 muA
** NormalTransistorNmos: 19.9991 muA
** NormalTransistorNmos: 675.719 muA
** NormalTransistorPmos: -675.718 muA
** NormalTransistorPmos: -675.719 muA
** DiodeTransistorNmos: 158.209 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -538.129 muA
** DiodeTransistorPmos: -103.076 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.04101  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.16701  V
** outVoltageBiasXXpXX2: 4.12301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.442001  V
** innerTransistorStack1Load2: 0.465001  V
** innerTransistorStack2Load2: 0.465001  V
** out1: 0.636001  V
** sourceGCC1: 4.42801  V
** sourceGCC2: 4.42801  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.71301  V


.END