** Name: SimpleTwoStageOpAmp_SimpleOpAmp79_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp79_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=8e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=370e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=20e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=558e-6
mNormalTransistorNmos9 outFirstStage outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=8e-6 W=108e-6
mNormalTransistorNmos10 outInputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=59e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=36e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=6e-6 W=138e-6
mNormalTransistorNmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=6e-6 W=138e-6
mNormalTransistorNmos14 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=8e-6 W=108e-6
mNormalTransistorNmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=23e-6
mNormalTransistorNmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=23e-6
mNormalTransistorNmos17 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=8e-6 W=135e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=370e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=218e-6
mNormalTransistorPmos20 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorPmos21 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=218e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=13e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=13e-6
mNormalTransistorPmos24 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp79_5

** Expected Performance Values: 
** Gain: 136 dB
** Power consumption: 14.9991 mW
** Area: 7696 (mu_m)^2
** Transit frequency: 18.7601 MHz
** Transit frequency with error factor: 18.7602 MHz
** Slew rate: 17.7087 V/mu_s
** Phase margin: 60.1606°
** CMRR: 149 dB
** VoutMax: 3.15001 V
** VoutMin: 0.340001 V
** VcmMax: 4.66001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 72.4691 muA
** NormalTransistorNmos: 25.0021 muA
** NormalTransistorPmos: -25.3829 muA
** NormalTransistorPmos: -43.9419 muA
** NormalTransistorPmos: -65.9969 muA
** NormalTransistorPmos: -43.9419 muA
** NormalTransistorPmos: -65.9969 muA
** NormalTransistorNmos: 43.9411 muA
** NormalTransistorNmos: 43.9401 muA
** NormalTransistorNmos: 43.9411 muA
** NormalTransistorNmos: 43.9401 muA
** NormalTransistorNmos: 44.1131 muA
** NormalTransistorNmos: 44.1141 muA
** NormalTransistorNmos: 22.0561 muA
** NormalTransistorNmos: 22.0561 muA
** NormalTransistorNmos: 2734.93 muA
** NormalTransistorPmos: -2734.92 muA
** DiodeTransistorPmos: -2734.93 muA
** DiodeTransistorNmos: 25.3821 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -72.4699 muA
** NormalTransistorPmos: -72.4709 muA
** DiodeTransistorPmos: -25.0029 muA
** DiodeTransistorPmos: -25.0039 muA


** Expected Voltages: 
** ibias: 0.576001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.746001  V
** outInputVoltageBiasXXpXX1: 2.58601  V
** outSourceVoltageBiasXXpXX1: 3.79601  V
** outSourceVoltageBiasXXpXX2: 3.68601  V
** outVoltageBiasXXnXX1: 0.951001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.371001  V
** innerTransistorStack1Load2: 0.349001  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 3.08601  V
** sourceGCC2: 3.08601  V
** sourceTransconductance: 1.94401  V
** inner: 3.78401  V


.END