** Name: SimpleTwoStageOpAmp_SimpleOpAmp80_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp80_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=14e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=262e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=106e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=436e-6
mNormalTransistorNmos7 outFirstStage outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=146e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=372e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=434e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=339e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=339e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=146e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=203e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=203e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=262e-6
mNormalTransistorNmos16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=14e-6
mNormalTransistorPmos17 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos18 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=400e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
mNormalTransistorPmos20 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=400e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=88e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=88e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 9.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp80_1

** Expected Performance Values: 
** Gain: 130 dB
** Power consumption: 14.6591 mW
** Area: 13400 (mu_m)^2
** Transit frequency: 18.3951 MHz
** Transit frequency with error factor: 18.3947 MHz
** Slew rate: 17.791 V/mu_s
** Phase margin: 60.1606°
** CMRR: 148 dB
** VoutMax: 4.60001 V
** VoutMin: 0.310001 V
** VcmMax: 5.01001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorNmos: 263.988 muA
** NormalTransistorNmos: 306.136 muA
** NormalTransistorPmos: -121.298 muA
** NormalTransistorPmos: -162.23 muA
** NormalTransistorPmos: -254.15 muA
** NormalTransistorPmos: -162.23 muA
** NormalTransistorPmos: -254.15 muA
** NormalTransistorNmos: 162.231 muA
** NormalTransistorNmos: 162.23 muA
** NormalTransistorNmos: 162.231 muA
** NormalTransistorNmos: 162.23 muA
** NormalTransistorNmos: 183.844 muA
** DiodeTransistorNmos: 183.845 muA
** NormalTransistorNmos: 91.9211 muA
** NormalTransistorNmos: 91.9211 muA
** NormalTransistorNmos: 1722.03 muA
** NormalTransistorPmos: -1722.02 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 121.299 muA
** DiodeTransistorPmos: -263.987 muA
** DiodeTransistorPmos: -306.135 muA


** Expected Voltages: 
** ibias: 1.17501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.712001  V
** outSourceVoltageBiasXXnXX1: 0.588001  V
** outVoltageBiasXXnXX2: 0.917001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.03601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.350001  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.93101  V
** inner: 0.586001  V


.END